US06133271
With the procedure of Example 1, the reaction of phenethylamine with 4-chloro-2-(pyridin-2-yl)-6-methyl-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-2-yl)-4-phenethylamino-6-methyl-thieno-[2,3-d]-pyrimidine.

reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | 4-chloro-2-(pyridin-2-yl)-6-methyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=NC=CC=C1)SC(=C2)C | C12H8ClN3S
product | 2-(pyridin-2-yl)-4-phenethylamino-6-methyl-thieno-[2,3-d]-pyrimidine | N1=C(C=CC=C1)C=1N=C(C2=C(N1)SC(=C2)C)NCCC2=CC=CC=C2 | C20H18N4S
